US06316482B1
A mixture of 2,3-diaminotoluene (2.0 g) and ethyl N-methyloxamate (2.36 g) in N,N-dimethylformamide (10 ml) was stirred at 175° C. for 8 hours. After being cooled to ambient temperature, the mixture as poured into a mixture of saturated aqueous sodium bicarbonate solution and ethyl acetate and the organic layer was separated. The organic layer was washed with brine and the solution was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel eluting with a mixtue of chloroform and methanol (50:1) to give 4-methyl-2-(N-methylcarbamoyl)-1H-benzimidazole (1.17 g) as a powder.

reactant | 2,3-diaminotoluene | 2.0 g | NC1=C(C=CC=C1N)C | C7H10N2
reactant | ethyl N-methyloxamate | 2.36 g | CNC(C(=O)OCC)=O | C5H9NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-methyl-2-(N-methylcarbamoyl)-1H-benzimidazole | 1.17 g | CC1=CC=CC=2NC(=NC21)C(NC)=O | C10H11N3O
